US08133907B2
2-[(E)-(R)-3-Dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinic acid
To a solution of 2-[(E)-(R)-3-dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinic acid methyl ester (0.7 g, 1.4 mmol) in 5 mL of a 1:1 dioxane:water solution is added lithium hydroxide (0.07 g, 2.8 mmol). After stirring for 24 hours, the reaction is diluted with water and is neutralized by addition of 1N HCl. Filtration gives the title compound.

reactant | 2-[(E)-(R)-3-dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinic acid methyl ester | 1.4 mmol, 0.7 g | COC(C1=C(N=CC=C1)\C=C\[C@@H](CC1=C(C=CC=C1)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C31H29FN2O2
reactant | lithium hydroxide | 2.8 mmol, 0.07 g | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-[(E)-(R)-3-Dibenzylamino-4-(2-fluoro-phenyl)-but-1-enyl]-nicotinic acid | C(C1=CC=CC=C1)N([C@@H](/C=C/C1=C(C(=O)O)C=CC=N1)CC1=C(C=CC=C1)F)CC1=CC=CC=C1 | C30H27FN2O2
